US05294612
To a solution of 1-(3-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine (1.08 g, 3.6 mmol) in 60% sulfuric acid (30 ml) at -10° C. was added sodium nitrite (5.6 g, 81.2 mmol) in water (8 ml). The reaction mixture was stirred at -5° C. for 2 hours, then at room temperature for 24 hours. The mixture was poured onto ice-water, neutralized with K2CO3 and the salts were collected by filtration. The aqueous filtrate was extracted with chloroform (6×100 ml) and the combined organic layers were concentrated in vacuo. The residue was dissolved in isopropanol, treated with Darco and concentrated in vacuo to afford 0.5 g (46%) of 1-(3-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one.1/4 hydrate as an off-white fluffy powder, m.p. 251° C. when dried at 90° C. for 24 hours in high vacuum.

reactant | 1-(3-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine | 3.6 mmol, 1.08 g | O1CC(CC1)N1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)C | C15H16N6O
reactant | sodium nitrite | 81.2 mmol, 5.6 g | N(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 8 ml | O | H2O
product | 1-(3-tetrahydrofuranyl)-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.5 g, 46% | O1CC(CC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C15H15N5O2
